US05438138
Preparation of 2,4-dichloro-6-(2,4-dimethylphenyl)-1,3,5-triazine
17.0 g (0.70 mol) of iodine-activated magnesium turnings in 25 ml of anhydrous THF are heated briefly to 60° C. Then 154.9 g (0.70 mol) of 4-bromo-m-xylene (in c. 90% purity) and 155 ml of THF are added dropwise over 30 min and the mixture is heated for 2 hours to reflux. After cooling, the Grignard solution is added over 1.5 hours to a mixture of 43.0 g (0.233 mol) of cyanuric chloride and 150 ml of THF, while keeping the temperature of the mixture in the range from 0° to 10° C. The mixture is then diluted with 210 ml of toluene, the resultant suspension is poured into 220 g of 12% aqueous HCl, the organic phase is separated, washed with a total amount of 280 g of water and concentrated. The resultant material is recrystallised from 2-butanol, giving the title compound with a melting point of 135.5°-137° C. in a yield of 79.8%.

reactant | iodine | 0.70 mol, 17.0 g | II | I2
reactant | 4-bromo-m-xylene | 0.70 mol, 154.9 g | BrC1=C(C=C(C=C1)C)C | C8H9Br
reactant | cyanuric chloride | 0.233 mol, 43.0 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | HCl | 220 g | Cl | ClH
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | toluene | 210 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 155 ml | C1CCOC1 | C4H8O
product | 2,4-dichloro-6-(2,4-dimethylphenyl)-1,3,5-triazine | yield of 79.8% | ClC1=NC(=NC(=N1)Cl)C1=C(C=C(C=C1)C)C | C11H9Cl2N3
